US04414390
Hydrochloric acid (200 ml) was added to 6-nitro-8-acetoxy-3,4-dihydrocarbostyril (20 g) and the mixture was refluxed for 4 hours. After ice cooling, crystals which precipitated were collected by filtration and recrystallized from methanol to give 13.76 g of 6-nitro-8-hydroxy-3,4-dihydrocarbostyril.

reactant | 6-nitro-8-acetoxy-3,4-dihydrocarbostyril | 20 g | [N+](=O)([O-])C=1C=C2CCC(NC2=C(C1)OC(C)=O)=O | C11H10N2O5
solvent | Hydrochloric acid | 200 ml | Cl | ClH
product | 6-nitro-8-hydroxy-3,4-dihydrocarbostyril | 13.76 g | [N+](=O)([O-])C=1C=C2CCC(NC2=C(C1)O)=O | C9H8N2O4
